US07709645B2
Step 1: Synthesis of 3-Fluoro-2-(4-hydroxy-cyclohexylamino)-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid
A mixture of 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (1.24 g, 3.27 mmol), 3-Fluoro-2-(4-hydroxy-cyclohexylamino)-5-iodo-benzoic acid (1.65 g, 3.27 mmol) and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichlormethane adduct (66 mg, 0.08 mmol) in dimethylacetamide (20 mL) and aqueous solution of sodium carbonate (2M, 4.9 mL) was stirred at 100° C. for 14 h. The cooled reaction mixture was poured into 150 mL of water acidified with 6 N hydrochloric acid and filtered. The solids were redissolved in a mixture of dichloromethane and ethanol and filtered again. The filtrate was concentrated and the brown residue was purified by flash silica gel chromatography using a gradient of a solution of 90 parts ethyl acetate, 10 parts methanol, and one part acetic acid and hexanes afforded 1.5 g of a light brown solid (2.38 mmol, 76% yield). MS: m/z 630 [MH+]

reactant | 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 3.27 mmol, 1.24 g | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | 3-Fluoro-2-(4-hydroxy-cyclohexylamino)-5-iodo-benzoic acid | 3.27 mmol, 1.65 g | FC=1C(=C(C(=O)O)C=C(C1)I)NC1CCC(CC1)O | C13H15FINO3
reactant | sodium carbonate | 2M, 4.9 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | dimethylacetamide | 20 mL | CC(=O)N(C)C | C4H9NO
solvent | water | 150 mL | O | H2O
product | 3-Fluoro-2-(4-hydroxy-cyclohexylamino)-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 2.38 mmol, 1.5 g, 76% yield | FC=1C(=C(C(=O)O)C=C(C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)NC2CCC(CC2)O | C34H32FN3O6S
